US04302576
Steps I and II were carried out in a first 20 gal. capacity, jacketed, stirred reactor and the reaction mixture transferred to a second 20 gal. capacity, jacketed, stirred reactor for Steps III and IV. Following termination with methanol in Step IV, 0.5 parts by weight of 2,6-di-t-butyl-4-methylphenol was added as a 20 weight percent solution in cyclohexane, and the butadiene/ε-caprolactone block copolymer then isolated by steam stripping. The calculated molecular weight of this copolymer based on the relative amounts of initiator and monomers used in the polymerization was about 26,000.

reactant | methanol | CO | CH4O
reactant | 2,6-di-t-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | butadiene ε-caprolactone | C=CC=C.C1(CCCCCO1)=O | InChI=1S/C6H10O2.C4H6/c7-6-4-2-1-3-5-8-6;1-3-4-2/h1-5H2;3-4H,1-2H2
